US06919377B2
To a stirred solution of trans-4-[4-(3-phenylpropylamino) cyclohexyl]-phenol (0.40 g, 1.3 mmol) in a mixture of 2 N NaOH (5 mL) and THF (5 mL) was added methyl chloroformate (0.12 mL, 1.6 mmol). The reaction mixture was stirred at room temperature for 2 hours. Methyl chloroformate (0.05 mL, 0.65 mmol) was added and stirring continued for another 2 hours. The mixture was diluted with EtOAc (50 mL), washed with H2O, dried (Na2SO4), filtered and concentrated under reduced pressure. Purification by flash chromatography (silica, 97:3 MeOH/CH2Cl2) gave trans-N-[4-(4-hydroxyphenyl)cyclohexyl]-N-(3-phenylpropyl)carbamic acid methyl ester, as an off-white solid (0.068 g, 14%): mp 128-133° C.; IR (KBr): 3403, 2923, 1673, 1518 cm−1; 1H NMR(300MHz, CD3OD) δ 7.31-7.15 (m, 5H), 7.01 (d, J=8 Hz, 2H), 6.68 (d, J=8 Hz, 2H), 3.91-3.78 (m, 1H), 3.67 (s, 3H), 3.25-3.13 (m, 2H), 2.61 (t, J=8 Hz, 2H), 2.40-2.29 (m, 1H), 1.95-1.45 (m, 10H); CI-MS (methane) (m/z): 368 [M+I]+; HRMS-API (m/z): [M+1]+ Calcd for C23H29NO3, 368.2225. found: 368.2227; HPLC: method A, 13.78 minutes (85.2%).

reactant | trans-4-[4-(3-phenylpropylamino) cyclohexyl]-phenol | 1.3 mmol, 0.40 g | C1(=CC=CC=C1)CCCN[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O | C21H27NO
reactant | methyl chloroformate | 1.6 mmol, 0.12 mL | ClC(=O)OC | C2H3ClO2
reactant | Methyl chloroformate | 0.65 mmol, 0.05 mL | ClC(=O)OC | C2H3ClO2
solvent | NaOH | 2 N, 5 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | trans-N-[4-(4-hydroxyphenyl)cyclohexyl]-N-(3-phenylpropyl)carbamic acid methyl ester | COC(N(CCCC1=CC=CC=C1)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O)=O | C23H29NO3
